US05047535
N-(1-Oxo-11-iodoundecyl)-12-aminododecanoic acid
Similar to example 2, reaction of 07.90 g (25.3 mmol) 11-iodoundecanoic acid with 2.90 g (25.3 mmol) N-hydroxysuccinimide and 5.22 g (25.3 mmol) DCC gave 10.0 g (96%) of the succiminidylester, which was reacted with 5.40 g (25.1 mmol) 12-aminododecanoic acid to yield 10.5 g (84%) of colourless crystals, m.p. 107°-110° C. (methanol).

reactant | 11-iodoundecanoic acid | 25.3 mmol | ICCCCCCCCCCC(=O)O | C11H21IO2
reactant | N-hydroxysuccinimide | 25.3 mmol, 2.90 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 25.3 mmol, 5.22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 12-aminododecanoic acid | 25.1 mmol, 5.40 g | NCCCCCCCCCCCC(=O)O | C12H25NO2
solvent | methanol | CO | CH4O
product | N-(1-Oxo-11-iodoundecyl)-12-aminododecanoic acid | 10.5 g, 84% | O=C(CCCCCCCCCCI)NCCCCCCCCCCCC(=O)O | C23H44INO3
